US04288385
Preparation of {5-[(1-Ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetonitrile
A solution of thionyl chloride (25.0 ml) in tetrahydrofuran (THF; 100 ml) is added at <20° C. to a solution of {5-[(1-ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetaldehyde oxime (12.0 g; 0.037 mol) in THF (160 ml). The reaction mixture is stirred overnight at room temperature, filtered, and the filtrate concentrated in vacuo to leave an oil which crystallizes, when seeded, to afford the title product (9.8 g), an orange solid. A sample is purified for analysis, melting point 59°-60° C.

reactant | thionyl chloride | 25.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | {5-[(1-ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetaldehyde oxime | 0.037 mol, 12.0 g | C(C)C(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C)CC=NO)[N+](=O)[O-] | C14H20N4O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 160 ml | O1CCCC1 | C4H8O
product | {5-[(1-Ethylpropyl)amino]-4,6-dinitro-o-tolyl}acetonitrile | 9.8 g | C(C)C(CC)NC=1C(=CC(=C(C1[N+](=O)[O-])C)CC#N)[N+](=O)[O-] | C14H18N4O4
